US07732618B2
b.) {5-[Benzyl-(thiophene-2-carbonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[Benzyl-(thiophene-2-carbonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester (0.12 mmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.58 (d, 1H), 7.40 (d, 1H), 7.28 (m, 6H), 6.92 (m, 1H), 6.83 (m, 1H), 6.61 (d, 1H), 5.04 (s, 2H), 4.82 (s, 2H), 2.71 (t, 2H), 1.78 (m, 2H), 0.98 (t, 3H). MS calculated for C24H23N3O3S+H: 434, observed: 434.

reactant | {5-[Benzyl-(thiophene-2-carbonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | 0.12 mmol | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(=O)C=2SC=CC2)CC2=CC=CC=C2)CCC)=O | C28H31N3O3S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[Benzyl-(thiophene-2-carbonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | C(C1=CC=CC=C1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)C(=O)C=1SC=CC1 | C24H23N3O3S
